US07592074B2
4-(2′-Ethylhexyloxy)phenylbromide
Sodium hydride (60% dispersion in oil, 17.4 g, 435 mmol) was added in portions to a cold (ice-bath) solution of 4-bromophenol (49.0 g, 283 mmol) in dry DMF (780 cm3). The mixture was stirred at that temperature for 2 h and the ice bath was removed. A solution of 2-ethylhexylbromide (54.4 cm3, 306 mmol) in 150 cm3 of dry DMF was added dropwise through an addition funnel to the reaction mixture and the reaction was stirred at room temperature overnight (21 h). The resultant mixture was diluted with water (400 cm3) and ether (500 cm3). The two phases were separated. The aqueous layer was extracted with ether (3×300 cm3) and the organic portion and the ether extracts were dried over anhydrous MgSO4, filtered and the filtrate was collected and evaporated under reduced pressure to leave yellow oil. Column chromatography over silica gel (half amount each time) with light petroleum as eluent afforded R1 (54.1 g, 67%) as colourless oil; λmax(CH2Cl2)/nm 284 (ε/dm3mol−1cm−1 1251), and 291sh (1001); δH(400 MHz; CDCl3) 0.83-0.97 (6 H, m, Me), 1.30-1.57 (8 H, m, CH2), 1.68-1.79 (1 H, m, CH), 3.78-3.84 (2 H, m, ArOCH2), 6.74-6.80 (2 H, m, ArH), and 7.33-7.40 (2 H, m, ArH); δC(100 MHz; CDCl3) 11.1, 14.1, 23.0, 23.8, 29.1, 30.4, 39.3, 70.7, 112.4, 116.3, 132.1, and 158.5.

reactant | Sodium hydride | 435 mmol, 17.4 g | [H-].[Na+]
reactant | 4-bromophenol | 283 mmol, 49.0 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 2-ethylhexylbromide | 306 mmol, 54.4 cm3 | C(C)C(CBr)CCCC | C8H17Br
solvent | DMF | 780 cm3 | CN(C)C=O | C3H7NO
solvent | DMF | 150 cm3 | CN(C)C=O | C3H7NO
solvent | water | 400 cm3 | O | H2O
solvent | ether | 500 cm3 | CCOCC | C4H10O
product | 4-(2′-Ethylhexyloxy)phenylbromide | C(C)C(COC1=CC=C(C=C1)Br)CCCC | C14H21BrO
